US08664258B2
Preparation of N-[4-[2-(2-Dimethylamino-acetylamino)-ethoxy]-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-3-methoxy-benzamide (Compound 344)
2-(dimethylamino)acetic acid (16.0 mg, 1.25 eq), triethylamine (34.6 mL, 2.0 eq) and HATU (59.0 mg, 1.25 eq) were dissolved in 3 mL of dichloromethane and stirred at room temperature for 10 minutes. At this time N-(4-(2-aminoethoxy)-3-(1-methyl-1H-pyrazol-5-yl)phenyl)-3-methoxybenzamide hydrochloride (50.0 mg, 124 μmol) dissolved in 2.0 mL of dichloromethane was added and the reaction was stirred at room temperature for 3 hr. The solvents were evaporated under a stream of nitrogen and it was purified by HPLC. The proper fractions were collected and lyophilized. It was then stirred overnight in 2.0M hydrochloric acid in ether (310.3 μl, 5 eq). The solvents were evaporated under a stream of nitrogen and lyophilized to afford the title compound as a white solid in 43.0% yield. LCMS m/z (%)=452 (M+H, 100). 1H NMR (400 MHz, CDCl3) δ ppm 2.83 (s, 3 H), 2.90 (s, 3 H), 3.61-3.67 (m, 2 H), 3.82 (s, 2 H), 3.87 (s, 3 H), 3.88 (s, 3 H), 4.07 (t, J=4.55 Hz, 2 H), 6.42 (d, J=2.53 Hz, 1 H), 6.99 (d, J=8.59 Hz, 1 H), 7.10 (dt, J=4.55, 2.53 Hz, 1 H), 7.40 (d, J=5.05 Hz, 2 H), 7.44 (s, 1 H), 7.57 (dd, J=9.09, 2.53 Hz, 1 H), 7.70 (d, J=2.53 Hz, 1 H), 7.82 (d, J=2.53 Hz, 1 H)

reactant | 2-(dimethylamino)acetic acid | 16.0 mg, 1.25 eq | CN(CC(=O)O)C | C4H9NO2
reactant | triethylamine | 34.6 mL, 2.0 eq | C(C)N(CC)CC | C6H15N
reactant | HATU | 59.0 mg, 1.25 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-(4-(2-aminoethoxy)-3-(1-methyl-1H-pyrazol-5-yl)phenyl)-3-methoxybenzamide hydrochloride | 124 μmol, 50.0 mg | Cl.NCCOC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)OC)=O)C1=CC=NN1C
reactant | ether | 310.3 μl, 5 eq | CCOCC | C4H10O
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
solvent | hydrochloric acid | 2.0M | Cl | ClH
product | N-[4-[2-(2-Dimethylamino-acetylamino)-ethoxy]-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-3-methoxy-benzamide | 43.0% yield | CN(CC(=O)NCCOC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)OC)=O)C=1N(N=CC1)C)C | C24H29N5O4
